US04028404
p-(Cyclobutylcarbonyl)phenylacetonitrile
α-Bromo-p-tolyl cyclobutyl ketone (18.5 g) in dimethylformamide (50 ml) was added during 35 minutes to sodium cyanide (4 g) in dimethylformamide (100 ml) which was cooled below 10° and stirred. The solution was allowed to warm to 20° during 2 hours and poured into water (1 l). The mixture was extracted with ether (3× 200 ml) and the combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was extracted with light petroleum (b.p. 60°-80°) (7× 250 ml) and the extracts were evaporated to leave an oil which partly crystallised on standing.

reactant | α-Bromo-p-tolyl cyclobutyl ketone | 18.5 g | C1(CCC1)C(=O)C1=CC=C(C=C1)CBr | C12H13BrO
reactant | sodium cyanide | 4 g | [C-]#N.[Na+]
reactant | water | 1 l | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | p-(Cyclobutylcarbonyl)phenylacetonitrile | C1(CCC1)C(=O)C1=CC=C(C=C1)CC#N | C13H13NO
